US07576108B2
b: (E)-3-Cyclopentyl-acrylic acid ethyl ester
Following the method of example 54a, reaction of triethylphosphinoacetate (196 g, 870 mmol) with hexane-washed sodium hydride (60% in mineral oil, 35 g, 870 mmol) in THF (1200 ml) and cyclopentanecarbaldehyde (86 g, 870 mmol) in THF (300 ml) gives the title product as an oil (59.1 g). MS (m/e): 169.1 (M+H).

reactant | triethylphosphinoacetate | 870 mmol, 196 g | C(C)P(CC)(CC)CC(=O)[O-]
reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 870 mmol, 35 g | [H-].[Na+]
reactant | cyclopentanecarbaldehyde | 870 mmol, 86 g | C1(CCCC1)C=O | C6H10O
solvent | THF | 1200 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | (E)-3-Cyclopentyl-acrylic acid ethyl ester | 59.1 g | C(C)OC(\C=C\C1CCCC1)=O | C10H16O2
